US04289772
Preparation of 4-(2-Methoxyethyl)piperidine
4-(2-Methoxyethyl)pyridine (9.6 g), in a mixture of ethanol (100 ml) and 2 N hydrochloric acid (30 ml) was hydrogenated over platinum oxide at 50°/50 p.s.i. until uptake of hydrogen ceased. The catalyst was removed by filtration and the solution evaporated in vacuo. The residue was then dissolved in water (50 ml), basified to pH 8 with dilute sodium hydroxide, and extracted with chloroform. The aqueous phase was evaporated in vacuo to give an oil which solidified on cooling. The solid was triturated with ether (60 ml), collected by filtration and dissolved in the minimum quantity of boiling ethyl acetate. The hot solution was filtered and on cooling deposited hygroscopic crystals of 4-(2-methoxyethyl)piperidine (9.9 g), m.p. 108°-110°. The structure was verified by i.r. and n.m.r. spectroscopy.

reactant | 4-(2-Methoxyethyl)pyridine | 9.6 g | COCCC1=CC=NC=C1 | C8H11NO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2 N, 30 ml | Cl | ClH
catalyst | platinum oxide | [Pt]=O
product | 4-(2-Methoxyethyl)piperidine | COCCC1CCNCC1 | C8H17NO
